datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CCc1cc([N+](=O)[O-])cc(CC)c1[O:21][H:20].COc1cc(OS(C)(=O)=O)ccc1-c1cn2cccnc2[n:10]1>>CCc1cc([N+](=O)[O-])cc(CC)c1[O-:21].COc1cc(OS(C)(=O)=O)ccc1-c1cn2cccnc2[n+:10]1[H:20] 10=20;20,21=21",
"CCCCCCCCCCCCC[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCCCCCCCCCCCC[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"COc1ccc(-c2cn3cccnc3[n:10]2)c(OC)c1.[NH3+]CC(C[NH3+])[NH2+:21][H:20]>>COc1ccc(-c2cn3cccnc3[n+:10]2[H:20])c(OC)c1.[NH3+]CC(C[NH3+])[NH2:21] 10=20;20,21=21",
"CC[N:10]1CCCC1CNC(=O)c1c([O-])c(Br)cc(Br)c1OC.Cc1cccc([O:21][H:20])c1C(=O)Oc1ccccc1>>CC[N+:10]1([H:20])CCCC1CNC(=O)c1c([O-])c(Br)cc(Br)c1OC.Cc1cccc([O-:21])c1C(=O)Oc1ccccc1 10=20;20,21=21",
"CC(C[N+:21]1([H:20])CCCC(C)(C)C1)Nc1ccccn1.CSc1ncnc2c1cn[n-:10]2>>CC(C[N:21]1CCCC(C)(C)C1)Nc1ccccn1.CSc1ncnc2c1cn[n:10]2[H:20] 10=20;20,21=21",
"C[N+]1=CC=C(C(=O)[CH:21](C2=CC=C([N+](=O)[O-])C=C2)[H:20])C=C1.ClCC[O-:10]>>C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=C([N+](=O)[O-])C=C2)C=C1.ClCC[O:10][H:20] 10=20;20,21=21",
"Cc1cc(C)[n:10]c(NS(=O)(=O)c2ccc([NH3+])cc2)n1.O=S(=O)(Nc1cncnc1)c1ccc([NH2+:21][H:20])cc1>>Cc1cc(C)[n+:10]([H:20])c(NS(=O)(=O)c2ccc([NH3+])cc2)n1.O=S(=O)(Nc1cncnc1)c1ccc([NH2:21])cc1 10=20;20,21=21",
"C[N:10](C)CCCCCCCCCNC(=O)/C=N/[O-].O=C(C[NH2+]CCc1nnn[nH]1)[O:21][H:20]>>C[N+:10](C)(CCCCCCCCCNC(=O)/C=N/[O-])[H:20].O=C(C[NH2+]CCc1nnn[nH]1)[O-:21] 10=20;20,21=21",
"O=C(CC[NH2:10])c1ccccc1.Oc1cccc2c1Cc1cc([NH2+:21][H:20])ccc1-2>>O=C(CC[NH2+:10][H:20])c1ccccc1.Oc1cccc2c1Cc1cc([NH2:21])ccc1-2 10=20;20,21=21",
"CC(C)(C)C[NH2:10].N#Cc1ccccc1[NH2+:21][H:20]>>CC(C)(C)C[NH2+:10][H:20].N#Cc1ccccc1[NH2:21] 10=20;20,21=21",
"NC(=[NH2+])Nc1nc(N)nc(N/C(N)=[NH+:21]\[H:20])n1.O=C([O-])C(Cc1c[nH]c2ccccc12)[NH2:10]>>NC(=[NH2+])Nc1nc(N)nc(NC(N)=[NH:21])n1.O=C([O-])C(Cc1c[nH]c2ccccc12)[NH2+:10][H:20] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=C([O-])C(Cc1cccnc1)[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C([O-])C(Cc1cccnc1)[NH2+:10][H:20] 10=20;20,21=21",
"C=CC[N+:21](CC(C)O)(CC(C)O)[H:20].CC(C)(C)[N:10]1NC2CCC1C2>>C=CC[N:21](CC(C)O)CC(C)O.CC(C)(C)[N+:10]1([H:20])NC2CCC1C2 10=20;20,21=21",
"Cc1ncc2c(c1[O-:10])C(O)OC2.Nc1cccc2c1ccn[n+:21]2[H:20]>>Cc1ncc2c(c1[O:10][H:20])C(O)OC2.Nc1cccc2c1ccn[n:21]2 10=20;20,21=21",
"CCCCCCCCCCC[NH2:10].O=Cc1cccc([O:21][H:20])c1>>CCCCCCCCCCC[NH2+:10][H:20].O=Cc1cccc([O-:21])c1 10=20;20,21=21",
"Cc1ccc[n:10]c1N.O=[N+]([O-])c1ccc2[nH]c(-c3ccccc3)[n+:21]([H:20])c2c1>>Cc1ccc[n+:10]([H:20])c1N.O=[N+]([O-])c1ccc2[nH]c(-c3ccccc3)[n:21]c2c1 10=20;20,21=21",
"CC(O)(c1ccccc1)C(C(=O)[O:21][H:20])c1ccc(-c2ccccc2)cc1.C[N:10](C)CCBr>>CC(O)(c1ccccc1)C(C(=O)[O-:21])c1ccc(-c2ccccc2)cc1.C[N+:10](C)(CCBr)[H:20] 10=20;20,21=21",
"C1CC[S+:21]([H:20])C1.Clc1cc([O-:10])cc(Cl)c1Cl>>C1CC[S:21]C1.Clc1cc([O:10][H:20])cc(Cl)c1Cl 10=20;20,21=21",
"CCN(CC)S(=O)(=O)c1ccc([NH2+:21][H:20])cc1.Cn1ncnc1/N=N/[O-:10]>>CCN(CC)S(=O)(=O)c1ccc([NH2:21])cc1.Cn1ncnc1/N=N/[O:10][H:20] 10=20;20,21=21",
"Cn1cnc2c1C(=O)NC(=O)[N-:10]2.O=[N+]([O-])c1ccccc1[NH2+:21][H:20]>>Cn1cnc2c1C(=O)NC(=O)[N:10]2[H:20].O=[N+]([O-])c1ccccc1[NH2:21] 10=20;20,21=21",
"CC(C)(O)[O-:10].C[C:21](C)(C1=CC=CC([N+](=O)[O-])=C1)[H:20]>>CC(C)(O)[O:10][H:20].C[C-:21](C)C1=CC=CC([N+](=O)[O-])=C1 10=20;20,21=21",
"Cc1cc(C(=O)[O-:10])ccc1O.O=[N+]([O-])c1ccc2c[n+:21]([H:20])[nH]c2c1>>Cc1cc(C(=O)[O:10][H:20])ccc1O.O=[N+]([O-])c1ccc2c[n:21][nH]c2c1 10=20;20,21=21",
"CC(=O)N=C1SC(S(=O)(=O)[NH:21][H:20])=NN1C.O=C(C[C@]1(O)C[C@@H]2CC[C@H]1C2)[O-:10]>>CC(=O)N=C1SC(S(=O)(=O)[NH-:21])=NN1C.O=C(C[C@]1(O)C[C@@H]2CC[C@H]1C2)[O:10][H:20] 10=20;20,21=21",
"Brc1ccc(-c2ncc(-c3ccc([NH2+:21][H:20])cc3)o2)cc1.COc1ccc(O)c(C[NH:10]C(CO)C(=O)[O-])c1>>Brc1ccc(-c2ncc(-c3ccc([NH2:21])cc3)o2)cc1.COc1ccc(O)c(C[NH+:10](C(CO)C(=O)[O-])[H:20])c1 10=20;20,21=21",
"C[C:21](C1=CC=CC=C1)([N+](=O)[O-])[H:20].OCC[O-:10]>>C[C-:21](C1=CC=CC=C1)[N+](=O)[O-].OCC[O:10][H:20] 10=20;20,21=21",
"C(=C(c1ccccc1)[O:21][H:20])c1ccccn1.c1ccc2cc3c([O-:10])cccc3cc2c1>>C(=C(c1ccccc1)[O-:21])c1ccccn1.c1ccc2cc3c([O:10][H:20])cccc3cc2c1 10=20;20,21=21",
"CC[N:10](CC)CCSC.Cn1ccc2ccc3ccc[n+:21]([H:20])c3c21>>CC[N+:10](CC)(CCSC)[H:20].Cn1ccc2ccc3ccc[n:21]c3c21 10=20;20,21=21",
"COCc1ccccc1C(=O)[O:21][H:20].[NH3+]C(c1cccc(O)c1O)P(=O)([O-])[O-:10]>>COCc1ccccc1C(=O)[O-:21].[NH3+]C(c1cccc(O)c1O)P(=O)([O-])[O:10][H:20] 10=20;20,21=21",
"COC(=O)C([NH3+])Cc1c[nH]c[n+:21]1[H:20].C[N+](C)(C)c1ccc([O-:10])c([N+](=O)[O-])c1>>COC(=O)C([NH3+])Cc1c[nH]c[n:21]1.C[N+](C)(C)c1ccc([O:10][H:20])c([N+](=O)[O-])c1 10=20;20,21=21",
"CC(=O)Nc1ccc2c(c1)cc1ccccc1[n:10]2.c1cnc2ccc([O:21][H:20])cc2c1>>CC(=O)Nc1ccc2c(c1)cc1ccccc1[n+:10]2[H:20].c1cnc2ccc([O-:21])cc2c1 10=20;20,21=21",
"CCCCCC[N+:21](CCO)(CC(O)CC)[H:20].Cc1n[nH]c2cc([NH2:10])ccc12>>CCCCCC[N:21](CCO)CC(O)CC.Cc1n[nH]c2cc([NH2+:10][H:20])ccc12 10=20;20,21=21",
"C[C:21](C)(C1=CC=CC([N+](=O)[O-])=C1)[H:20].OCC[O-:10]>>C[C-:21](C)C1=CC=CC([N+](=O)[O-])=C1.OCC[O:10][H:20] 10=20;20,21=21",
